US07541372B2
a) 5-Methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide
To a solution of 5-methyl-3-phenyl-isoxazole-4-carboxylic acid (5.00 g, 24.6 mmol) in THF (50 mL) was added in one portion 1,1′-carbonyl-diimidazole (4.39 g, 27.1 mmol). After stirring for 15 min at ambient temperature the solution was warmed to 70° C. and stirred for 30 min at this temperature. After the solution was cooled to 0° C. hydrazine monohydrate (2.4 mL, 49.0 mmol) was added over a period of 2 min while the temperature raised to 15° C. The resulting suspension was stirred for 30 min at 0° C. After addition of 20 mL heptane the suspension was stirred for 15 min at 0° C. and filtered off. Washing with water and drying afforded the title compound (4.52 g, 85%) as a white solid. MS: m/e=218.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid | 24.6 mmol, 5.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | 1,1′-carbonyl-diimidazole | 27.1 mmol, 4.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine monohydrate | 49.0 mmol, 2.4 mL | O.NN
reactant | heptane | 20 mL | CCCCCCC | C7H16
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 4.52 g, 85% | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
